US06545009B1
In the same manner as in Example 1, methyl 4-carbamoylbenzoate was reacted with 4-methoxyphenacyl bromide to obtain methyl 4-[4-(4-methoxyphenyl)-2-oxazolyl]benzoate. The product was recrystallized from ethanol. Yield: 18%. Pale yellow prisms. Melting Point: 200 to 202° C.

reactant | methyl 4-carbamoylbenzoate | C(N)(=O)C1=CC=C(C(=O)OC)C=C1 | C9H9NO3
reactant | 4-methoxyphenacyl bromide | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
product | methyl 4-[4-(4-methoxyphenyl)-2-oxazolyl]benzoate | Yield: 18% | COC1=CC=C(C=C1)C=1N=C(OC1)C1=CC=C(C(=O)OC)C=C1 | C18H15NO4
